US05496949
A four-necked flask was charged with 14.6 g (0.10 mole) of sodium pyrazinecarboxylate, 15.1 g (0.10 mole) of chloromethyl pivalate and 1.0 g (0.01 mole) of triethylamine and the charge was maintained under stirring at 98°-100° C. for 6 hours. The reaction mixture was then cooled and 100 ml of toluene was added. The solids (sodium chloride) were filtered off. From the filtrate thus obtained the toluene was distilled off and the filtrate was subjected to distillation under reduced pressure to give 17.2 g of pivaloyloxymethyl pyrazinecarboxylate. Yield: 72%

reactant | sodium pyrazinecarboxylate | 0.10 mole, 14.6 g | N1=C(C=NC=C1)C(=O)[O-].[Na+]
reactant | chloromethyl pivalate | 0.10 mole, 15.1 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | triethylamine | 0.01 mole, 1.0 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | pivaloyloxymethyl pyrazinecarboxylate | 17.2 g, Yield: 72% | N1=C(C=NC=C1)C(=O)OCOC(C(C)(C)C)=O | C11H14N2O4
